US08648208B2
(5) 5-Hydroxy-2-methyl-4-[3-[3-propyl-6-(trifluoromethyl)benzothiophen-2-yl]propionyl]phenoxyacetic acid
To a mixture of ethanol (0.2 mL) and water (0.1 mL) was suspended ethyl 5-hydroxy-2-methyl-4-[1-hydroxyimino-3-[3-propyl-6-(trifluoromethyl)-benzothiophen-2-yl]propyl]phenoxyacetate (15 mg, 0.0295 mmol) obtained above. After the addition of lithium hydroxide monohydrate (3.7 mg, 0.0885 mmol), the suspension was heated for 1 hour under reflux, and then allowed to cool to room temperature and diluted with ice-water. The mixture was acidified by addition of 1M HCl and extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was recrystallized from ethyl acetate-hexane, to give the titled compound as a pale yellow crystal (9.7 mg, yield 69%).

reactant | ethanol | 0.2 mL | C(C)O | C2H6O
reactant | ethyl 5-hydroxy-2-methyl-4-[1-hydroxyimino-3-[3-propyl-6-(trifluoromethyl)-benzothiophen-2-yl]propyl]phenoxyacetate | 0.0295 mmol, 15 mg | OC=1C(=CC(=C(OCC(=O)OCC)C1)C)C(CCC=1SC2=C(C1CCC)C=CC(=C2)C(F)(F)F)=NO | C26H28F3NO5S
reactant | lithium hydroxide monohydrate | 0.0885 mmol, 3.7 mg | O.[OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | water | 0.1 mL | O | H2O
product | 5-Hydroxy-2-methyl-4-[3-[3-propyl-6-(trifluoromethyl)benzothiophen-2-yl]propionyl]phenoxyacetic acid | 9.7 mg, yield 69% | OC=1C(=CC(=C(OCC(=O)O)C1)C)C(CCC=1SC2=C(C1CCC)C=CC(=C2)C(F)(F)F)=O | C24H23F3O5S
